US07700625B2
A mixture of (5-amino-1,3-dihydro-isoindol-2-yl)-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-methanone (100 mg; 0.2 mmol), bis(2-chloroethyl)ether (30 μl; 1;1 equiv.), Hunigs base (125 μl; 3.5 equiv.) and tetrabutylammonium iodide (10 mg) in NMP (1 ml) was heated in a CEM microwave synthesiser at 150° C. for 30 minutes. A further 30 μl of Hunigs base and 125 μl of bis(2-chloroethyl)ether were added and heating repeated for the same time. The reaction mixture was partitioned between EtOAc and saturated NH4Cl solution, the EtOAc layer was separated, washed with more saturated NH4Cl solution, then brine, dried (MgSO4) and evaporated. Purification by flash column chromatography (1:2 then 1:1 then 2:1 EtOAc/P.E. as eluant) gave 60 mg of (2,4-bis-benzyloxy-5-isopropyl-phenyl)-(5-morpholin-4-yl-1,3-dihydro-isoindol-2-yl)-methanone. MS: [M+H]+ 563.

reactant | (5-amino-1,3-dihydro-isoindol-2-yl)-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-methanone | 0.2 mmol, 100 mg | NC=1C=C2CN(CC2=CC1)C(=O)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C32H32N2O3
reactant | bis(2-chloroethyl)ether | 30 μl, 1 equiv. | ClCCOCCCl | C4H8Cl2O
reactant | Hunigs base | 125 μl, 3.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
reactant | Hunigs base | 30 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | bis(2-chloroethyl)ether | 125 μl | ClCCOCCCl | C4H8Cl2O
catalyst | tetrabutylammonium iodide | 10 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | (2,4-bis-benzyloxy-5-isopropyl-phenyl)-(5-morpholin-4-yl-1,3-dihydro-isoindol-2-yl)-methanone | 60 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)C(C)C)C(=O)N1CC2=CC=C(C=C2C1)N1CCOCC1 | C36H38N2O4
